US06342765B1
Sodium borohydride (0.41 g; 1.06 mmol) was added portionwise at 0° C. to a solution of 1-(4-fluorobenzoylmethyl)-2-(tert-butyldiphenylsilyloxymethyl)imidazole (4.81 g; 1.01 mmol) in methanol (100 ml). The mixture was stirred at ambient temperature for 16 hours. 12N HCl (0.84 ml) added and then evaporated to dryness and purified by flash column chromatography eluting with dichloromethane/ethanol (96:4) to give 1-[2-(4-fluorophenyl)-2-hydroxyethyl]-2-(tert-butyldiphenylsilyloxymethyl)imidazole.

reactant | Sodium borohydride | 1.06 mmol, 0.41 g | [BH4-].[Na+]
reactant | 1-(4-fluorobenzoylmethyl)-2-(tert-butyldiphenylsilyloxymethyl)imidazole | 1.01 mmol, 4.81 g | FC1=CC=C(C(=O)CN2C(=NC=C2)CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C=C1 | C28H29FN2O2Si
reactant | HCl | 12N, 0.84 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 1-[2-(4-fluorophenyl)-2-hydroxyethyl]-2-(tert-butyldiphenylsilyloxymethyl)imidazole | Yield: 63% | FC1=CC=C(C=C1)C(CN1C(=NC=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O | C28H31FN2O2Si
